US05310723
A mixture of 10.0 grams (0.063 mole) of 3,4-difluoronitrobenzene and 40 mL of aqueous 29% ammonium hydroxide was placed in a pressure bottle and sealed. The mixture was stirred and heated at 135° C. for about 18 hours. The bottle and contents were then cooled and the bottle opened. A solid was collected by filtration and washed, first with water and then with petroleum ether. The solid was dried, yielding 9.4 grams of 2-fluoro-4-nitroaniline.

reactant | 3,4-difluoronitrobenzene | 0.063 mole, 10.0 grams | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-fluoro-4-nitroaniline | 9.4 grams | FC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5FN2O2
